US07601850B2
A. 2-{4-[1-Ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenoxy}-acetic acid methyl ester
4-[1-Ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenol (10.66 g, 38.9 mmol) is reacted with methyl bromoacetate (4.4 ml, 46.7 mmol) and K2CO3 (10.70 g, 77.81 mmol) in acetone (100 m) at refluxing temperature overnight. The reaction is cooled to RT, filtered and washed with Et2O and concentrated. The crude product is purified by chromatography to give the titled compound (12.15 g, 35.1 mmol, 90%). 1H NMR (CD3Cl3), δ 0.70 (t, J=7.2 Hz, 6H), 2.04-2.12 (m, 4H), 2.21 (s, 3H), 2.26 (s, 3H), 3.81 (s, 3H), 4.63 (s, 2H), 6.57-6.61 (m, 2H), 6.69-6.71 (m, 1H), 7.02-7.06 (m, 2H). LC/MS (m/z): calcd for C20H27O3S (M+H)+:347.5; found: 347.1.

reactant | 4-[1-Ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenol | 38.9 mmol, 10.66 g | C(C)C(CC)(C=1SC=C(C1)C)C1=CC(=C(C=C1)O)C | C17H22OS
reactant | methyl bromoacetate | 46.7 mmol, 4.4 ml | BrCC(=O)OC | C3H5BrO2
reactant | K2CO3 | 77.81 mmol, 10.70 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-{4-[1-Ethyl-1-(4-methyl-thiophen-2-yl)-propyl]-2-methyl-phenoxy}-acetic acid methyl ester | 35.1 mmol, 12.15 g, 90% | COC(COC1=C(C=C(C=C1)C(CC)(C=1SC=C(C1)C)CC)C)=O | C20H26O3S
